2113-01-26 07:27:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - MR spine: (prelim) no vertebral osteomyelitis, discitis, or
   paraspinal or epidural abscess, + marked syringohydromyelia 4th
   ventricle to T8-9
   - CTA head: (prelim) no mycotic aneurysm
   - plan for OR tomorrow
   - febrile to 103, hypotensive, gave 250cc NS x3, pan-cultured
   - SBP 70s, started on Levophed, BP improved to 90s
   - low UOP, incr Cr 1.1->1.5: gave IVF 500cc, started on Milrinone
   Allergies:
   Penicillin G
   Hallucinations;
   Last dose of Antibiotics:
   Metronidazole - [**2113-1-24**] 10:00 AM
   Vancomycin - [**2113-1-24**] 11:00 AM
   Nafcillin - [**2113-1-26**] 04:00 AM
   Infusions:
   Midazolam (Versed) - 2 mg/hour
   Norepinephrine - 0.1 mcg/Kg/min
   Milrinone - 0.28 mcg/Kg/min
   Fentanyl - 200 mcg/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2113-1-25**] 08:19 AM
   Fentanyl - [**2113-1-25**] 09:30 AM
   Midazolam (Versed) - [**2113-1-25**] 09:30 AM
   Heparin Sodium (Prophylaxis) - [**2113-1-25**] 04:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2113-1-26**] 07:26 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 39.4
C (103
   Tcurrent: 37.4
C (99.4
   HR: 95 (84 - 114) bpm
   BP: 95/49(59) {73/45(51) - 119/75(84)} mmHg
   RR: 17 (15 - 18) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 72 kg (admission): 63 kg
   Height: 70 Inch
             Total In:
                                                                  2,934 mL
                                                                    485 mL
   PO:
             TF:
                                                                    184 mL
   IVF:
                                                                  2,720 mL
                                                                    485 mL
   Blood products:
   Total out:
                                                                  1,470 mL
                                                                    190 mL
   Urine:
                                                                  1,470 mL
                                                                    190 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,464 mL
                                                                    295 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 550 (550 - 550) mL
   RR (Set): 17
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 50%
   PIP: 20 cmH2O
   Plateau: 14 cmH2O
   SpO2: 95%
   ABG: 7.38/42/90.[**Numeric Identifier 299**]/25/0
   Ve: 5.9 L/min
   PaO2 / FiO2: 180
   Physical Examination
   Gen: thin appearing male, intubated, sedated
   Heart: [**4-22**] holosystolic murmur best at apex, faint S2.
   Lungs: clear anteriorly
   Abd: soft, nondistended, nontender
   Neuro: opens eyes, PERRL, moves all extremities
   Labs / Radiology
   530 K/uL
   9.0 g/dL
   118 mg/dL
   1.6 mg/dL
   25 mEq/L
   3.7 mEq/L
   16 mg/dL
   109 mEq/L
   140 mEq/L
   26.9 %
   10.8 K/uL
        [image002.jpg]
                             [**2113-1-24**]  10:29 AM
                             [**2113-1-24**]  05:00 PM
                             [**2113-1-24**]  05:14 PM
                             [**2113-1-25**]  03:36 AM
                             [**2113-1-25**]  03:53 AM
                             [**2113-1-25**]  05:03 PM
                             [**2113-1-25**]  05:20 PM
                            [**2113-1-26**]  03:12 AM
                            [**2113-1-26**]  03:25 AM
                            [**2113-1-26**]  04:27 AM
   WBC
   11.4
   10.8
   Hct
   30.3
   32.3
   26.9
   26.9
   Plt
   433
   530
   Cr
   0.9
   1.1
   1.5
   1.6
   TCO2
   23
   24
   29
   26
   26
   Glucose
   89
   106
   125
   118
   Other labs: PT / PTT / INR:16.1/31.7/1.4, Ca++:7.1 mg/dL, Mg++:1.6
   mg/dL, PO4:3.4 mg/dL
   Imaging: CTA- mult evolving infarcts b/l, w/o hemorrh conversion.
   stable mass effect L lat vent, but no herniation. No mycotic aneurysm
   MRI:1. No finding to specifically suggest vertebral osteomyelitis,
   discitis, or
   paraspinal or epidural abscess.
   2. No pathologic focus of leptomeningeal or nerve root enhancement.
   3. Marked hydromyelia, which appears to extend from the level of the
   obex of
   the fourth ventricle through the T8-9 level, with cystic dilatation
   reaching
   maximally 6.5 mm at the C4-5 level, where there is significant
   degenerative
   change with prominent disc-endplate/right uncovertebral spondylotic
   complex,
   but no overall spinal canal stenosis.
   4. No evidence of underlying mass or other intrinsic intramedullary
   abnormality, or Chiari I malformation.
   d parenchymal abnormalities, incompletely imaged and better-evaluated
   on
   recent radiography.
   Microbiology: Blood cx neg since [**1-18**]
   Cath tip - negative
   Assessment and Plan
   49 M found to have staphlyococcus aureus bacterial endocarditis with
   severe mitral regurgitation [**3-21**] mitral valve vegetations and flail
   leaflet, course c/b sepsis, neurological deficits.
   # Mitral valve staphylococcus aureus endocarditis/ Sepsis [**3-21**]
   staphylococcus aureus bacteremia: BCx grew out MSSA, c/x neg since
   [**1-17**].  ECHO shows large vegetation on mitral valve, possible small
   vegetation on aortic valve.  Surgery is essential for recovery and
   after great disucussion within the primary team, the risks outweight
   the benefits.  Risk of hemorrhagic conversion is thought to be
   significantly reduced after the first three days.  Pt already has
   multiple reasons for urgent valve repair and has been preopoeratively
   optimized.
   - OR today
   - surveillance cultures: last positive cx on [**1-17**].   Stop daily
   surveillance cultures.  Culture if spikes >101.
   - f/u cardiac surgery recs
   - s/p OR for tooth extraction
   - f/u ID recs
 Continue Nafcillin
   - cath - no coronary intervention needed
   - daily ECG to eval for heart block
   - MRI spine shows no abscess
   #Fever
 Pt [**Month/Day (4) 4607**] to 103.  Most likely it is his abscess on the Mitral
   valve that causes intermittent temperature.    He has been pan-cultured
   with each spike in his temperature which shows no growth.  His CXR is
   consistent with pulmonary edema.
   -          surgery for removal of abscess
   #Hypotension - most likely due to cardiac failure due to severe MR.
   [**Name13 (STitle) 6**] had significant improvement with milrinone.
   - continue milrinone
   - wean levophed
    # Loose stools: Pt has been having loose stools since admission. Cdiff
   negative x3. Empirically treating with PO Vanc. WBC improved from 20 to
   13.2.
   - add banana flakes to tube feeds
   # Neurological deficits
 Neurological deficits continue to improve.
   - MRI  head, optic nerves, and spine once patient stabilized. (after
   surgery)
   - repeat CT angio head/neck- no mycotic aneurysm
   - final treatment would be surgery
   # Delirium
 Pt agitated [**1-21**], requiring Haldol 19mg IV and Ativan 1mg
   IV. Appropriate and calm on [**1-22**] with standing Haldol.
   - f/u psych recs
   - if needed, haldol and ativan; monitor for QTc prolongation, EPS,
   akithesia, dystonia, TD, and NMS
    # Respiratory Distress
 Intubated
   - continue Lasix; titrate to 50cc/hr with Lasix drip
   #ARF - creatinine stable -  1.5 today (baseline 0.4). Had improved to
   0.9 from peak of mid 2s.  Now worsening in setting of hypotension.
   Prerenal etiology expected to improve with milrinone and improved
   forward flow.
   -Continue to monitor UOP, Cr
   - renally dose all meds
   #Olecranon bursistis s/p washout
 no evidence of infection as per OR
   report and initial gram stain. Wound vac in place
   - f/u fluid cx - negative
   #Hypoalbuminemia
 poor nutrition.  Dobhoff placed [**1-22**], Tube feeds
   started.
   - NPO currently due to surgery today
   # CORONARIES: no known CAD but heavy smoker, coronaries clean
   - NPO after MN
   # PUMP: Bedside ECHO done [**1-16**]. EF 55-60%.
   # RHYTHM:  Sinus tachycardia physiologic response to severe MR
   #ACCESS: L subclavian placed [**1-23**]
   #PPX
 SQH
   # Code
 full
   #Access
 RIJ -> switch to L subclavian [**1-23**]
   #Communication
 wife
   #Dispo
 OR today and transfer to CT [**Doctor First Name 91**] service.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Arterial Line - [**2113-1-19**] 04:32 PM
   Multi Lumen - [**2113-1-23**] 01:30 PM
   22 Gauge - [**2113-1-24**] 01:35 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:
   ------ Protected Section ------
   Cardiology Teaching Physician Note
   On this day I saw, examined and was physically present with the
   resident / fellow for the key portions of the services provided. I
   agree with the above note and plans.
   I would add the following remarks:
   Medical Decision Making
   Mr [**Known lastname 10242**] [**Last Name (Titles) 4607**] a temp to [**Age over 90 **] yesterday afternoon with no temps
   since. MRI of the spine and CT I+ of the head all showed no abscess,
   source of infection and no mycotic aneurysm. Both Neurosurgery,
   Neurology and ID feel the patient should undergo double valve
   replacement with intracardiac abscess debridement as soon as possible.
   I have conveyed this to Dr [**First Name (STitle) **] of c-[**Doctor First Name 91**]. WBC count continues to
   decline from 11.4 to 10.8 today on Nafcillin 2 g Q4 hrs and PO Vanco.
   He is on low dose Milrinone and low dose levo and the plan is to wean
   the levo off this am and send him to the OR on low dose milrinone later
   today.
   Above discussed extensively with patient. Above discussed extensively
   with family member, next of [**Doctor First Name 23**] or health care proxy. I have discussed
   this plan with Dr(s). [**Name (NI) 568**] and Pride..
   Total time spent on patient care: 40 minutes of critical care time.
   ------ Protected Section Addendum Entered By:[**Name (NI) **] [**Last Name (NamePattern1) **], MD
   on:[**2113-1-26**] 02:15 PM ------

2113-01-27 07:11:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - surgery cancelled b/c OR schedule delayed, should go to OR today
   Allergies:
   Penicillin G
   Hallucinations;
   Last dose of Antibiotics:
   Metronidazole - [**2113-1-24**] 10:00 AM
   Vancomycin - [**2113-1-26**] 08:59 PM
   Nafcillin - [**2113-1-27**] 04:15 AM
   Infusions:
   Midazolam (Versed) - 3 mg/hour
   Milrinone - 0.28 mcg/Kg/min
   Fentanyl - 200 mcg/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2113-1-26**] 09:00 AM
   Midazolam (Versed) - [**2113-1-26**] 03:45 PM
   Fentanyl - [**2113-1-26**] 03:45 PM
   Heparin Sodium (Prophylaxis) - [**2113-1-26**] 03:58 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2113-1-27**] 07:11 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.6
C (99.7
   Tcurrent: 36.7
C (98.1
   HR: 86 (86 - 107) bpm
   BP: 82/71(75) {70/59(59) - 125/82(87)} mmHg
   RR: 17 (15 - 21) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 72 kg (admission): 63 kg
   Height: 70 Inch
             Total In:
                                                                  1,946 mL
                                                                    417 mL
   PO:
             TF:
                                                                    140 mL
                                                                     21 mL
   IVF:
                                                                  1,716 mL
                                                                    396 mL
   Blood products:
   Total out:
                                                                    980 mL
                                                                    245 mL
   Urine:
                                                                    980 mL
                                                                    245 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    966 mL
                                                                    172 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 550 (550 - 550) mL
   RR (Set): 17
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 50%
   PIP: 20 cmH2O
   Plateau: 14 cmH2O
   Compliance: 61.1 cmH2O/mL
   SpO2: 95%
   ABG: 7.39/43/73.[**Numeric Identifier 252**]/22/0
   Ve: 9.6 L/min
   PaO2 / FiO2: 146
   Physical Examination
   Cardiovascular: Gen: intubated, sedated
   CV: RRR, holosystolic murmur best at apex, faint S2.
   Lungs: clear anteriorly
   Abd: soft, NT, ND, ABS
   Ext: wwp, 2+ DP pulses. 1+ edema
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   527 K/uL
   8.7 g/dL
   115 mg/dL
   1.6 mg/dL
   22 mEq/L
   3.7 mEq/L
   18 mg/dL
   107 mEq/L
   138 mEq/L
   26.2 %
   9.4 K/uL
        [image002.jpg]
                             [**2113-1-25**]  03:53 AM
                             [**2113-1-25**]  05:03 PM
                             [**2113-1-25**]  05:20 PM
                            [**2113-1-26**]  03:12 AM
                            [**2113-1-26**]  03:25 AM
                            [**2113-1-26**]  04:27 AM
                            [**2113-1-26**]  04:39 PM
                            [**2113-1-26**]  04:49 PM
                            [**2113-1-27**]  03:42 AM
                            [**2113-1-27**]  04:25 AM
   WBC
   10.8
   9.4
   Hct
   32.3
   26.9
   26.9
   26.2
   Plt
   530
   527
   Cr
   1.5
   1.6
   1.6
   1.6
   TCO2
   29
   26
   26
   26
   27
   Glucose
   125
   118
   118
   115
   Other labs: PT / PTT / INR:14.8/31.3/1.3, Ca++:7.5 mg/dL, Mg++:2.3
   mg/dL, PO4:3.9 mg/dL
   Imaging: CXR: Mild cardiomegaly is stable. Increased opacities in the
   perihilar regions and
   lower lobes bilaterally, a combination with a stable mild pulmonary
   edema,
   small bilateral pleural effusions and left lower lobe retrocardiac
   atelectasis. NG tube tip is in the stomach. ET tube, left subclavian
   catheter remain in place. Patient has known severe emphysema.
   Microbiology: BCx negative since [**1-20**]
   Assessment and Plan
   49 M found to have staphlyococcus aureus bacterial endocarditis with
   severe mitral regurgitation [**3-21**] mitral valve vegetations and flail
   leaflet, course c/b sepsis, neurological deficits.
   # Mitral valve staphylococcus aureus endocarditis/ Sepsis [**3-21**]
   staphylococcus aureus bacteremia: BCx grew out MSSA, c/x neg since
   [**1-17**].  ECHO shows large vegetation on mitral valve, possible small
   vegetation on aortic valve.  Surgery is essential for recovery and
   after great disucussion within the primary team, the risks outweight
   the benefits.  Risk of hemorrhagic conversion is thought to be
   significantly reduced after the first three days.  Pt already has
   multiple reasons for urgent valve repair, including valvular abscess.
   He has been preopoeratively optimized.
   - OR today
   - surveillance cultures: last positive cx on [**1-17**].   Stop daily
   surveillance cultures.  Culture if spikes >101.
   - f/u cardiac surgery recs
   - f/u ID recs
 Continue Nafcillin , go for surgery
   - s/p OR for tooth extraction
   - cath - no coronary intervention needed
   - daily ECG to eval for heart block
   - MRI spine shows no abscess
   #Fever
 Pt spiked to 103 two days ago.  Most likely due to valvuar
   abscess causing intermittent temperature.    He has been pan-cultured
   with each spike in his temperature which shows no growth.  His CXR is
   consistent with pulmonary edema.
   -          surgery for removal of abscess
   #Hypotension - most likely due to cardiac failure due to severe MR.
   [**Name13 (STitle) 6**] had significant improvement with milrinone.
   - continue milrinone
   - levophed has been discontinued.
    # Loose stools: Pt has been having loose stools since admission. Cdiff
   negative x3. WBC improved from 20 to 13.2.
   - responding to po vanco, has not had BM for 2 days, would d/c po
   vanco.
   - add banana flakes to tube feeds
   # Neurological deficits
 Neurological deficits continue to improve,
   though now difficult to assess given sedation.  Neurological exam:
   PERRL, CN2-12 intact.  moves all extremities, upper extremity strength
   intact.  Lower extremity strength difficult to assess. Right side
   weaker than left.
   - MRI  head, optic nerves, and spine once patient stabilized. (after
   surgery)
   - repeat CT angio head/neck- no mycotic aneurysm
   - final treatment would be surgery
   - neurology and neurosurg following.
   # Delirium
 Pt agitated [**1-21**], requiring Haldol 19mg IV and Ativan 1mg
   IV. Appropriate and calm on [**1-22**] with standing Haldol.
   - if needed, haldol and ativan; monitor for QTc prolongation, EPS,
   akithesia, dystonia, TD, and NMS
    # Respiratory Distress
 Intubated
   - will require diuresis post OR
   #ARF - creatinine stable -  1.5 today (baseline 0.4). Had improved to
   0.9 from peak of mid 2s.  Now worsening in setting of hypotension.
   Prerenal etiology expected to improve with milrinone and improved
   forward flow.
   -Continue to monitor UOP, Cr
   - renally dose all meds
    # Olecranon bursistis s/p washout
 no evidence of infection as per OR
   report and initial gram stain.
   - f/u fluid cx - negative
   #Hypoalbuminemia
 poor nutrition.  Dobhoff placed [**1-22**], Tube feeds
   started.
   - NPO currently due to surgery today
   # CORONARIES: no known CAD but heavy smoker, coronaries clean
   # PUMP: Bedside ECHO done [**1-16**]. EF 55-60%.
   # RHYTHM:  Sinus tachycardia physiologic response to severe MR
   #ACCESS: L subclavian placed [**1-23**]
   #PPX
 SQH
   # Code
 full
   #Access
 switch to L subclavian [**1-23**]
   #Communication
 wife
   #Dispo
 OR today and transfer to CT [**Doctor First Name 91**] service
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Arterial Line - [**2113-1-19**] 04:32 PM
   Multi Lumen - [**2113-1-23**] 01:30 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: